US03936452
Synthesis of N-t-butyloxycarbonyl-L-leucine:
6.56 Grams (0.050 mole) of L-leucine and 10.5 ml. (0.075 mole) of triethylamine were added to 27.5 ml. of water. To the resulting mixture was added a solution of 13.2 g. (0.055 mole) of t-butyl 4,6-dimethyl-pyrimidyl-2-thiolcarbonate in 27.5 ml. of dioxane, and then the mixture was reacted under stirring at room temperature for 10 hours. After completion of the reaction, 75 ml. of water was added to the reaction liquid, and unreacted thiolcarbonate was extracted thrice with 100 ml. of ethyl acetate. Subsequently, the aqueous phase was cooled to 0°C., adjusted to pH 3 by addition of a saturated aqueous citric acid solution, and then extracted once with 75 ml. of ethyl acetate and twice with 40 ml. of ethyl acetate. Thereafter, the ethyl acetate phases were united together, washed once with 50 ml. of an aqueous citric acid solution at pH 1 and twice with 50 ml. of a saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate, and then the ethyl acetate was removed by distillation under reduced pressure, whereby a syrupy residue was obtained. This residue was dissolved in 65 ml. of ethanol, and the resulting solution was charged with 50 ml. of water and then cooled to obtain 11.3 g. of crystals of N-t-butyloxycarbonyl-L-leucine monohydrate, yield 97.8 %, m.p. 69° to 74°C. [gradually melting at about 59°C.; Journal of American Chemical Society. 79, 6180 (1957): 67°-72°C⟧

reactant | L-leucine | 0.050 mole | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | triethylamine | 0.075 mole | C(C)N(CC)CC | C6H15N
reactant | N-t-butyloxycarbonyl-L-leucine monohydrate | O.C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C(=O)O
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-t-butyloxycarbonyl-L-leucine | yield 97.8 % | C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C(=O)O | C11H21NO4
